US04188378
B. 2-Amino-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)adenine (III)
Dry HCl gas was bubbled into a solution of 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-β-D-arabinofuranose (17 g, 30 mmol) in CH2Cl2 (187 ml) at -10°-0° for 21/2 hr. The precipitated p-nitrobenzoic acid was removed by filtration and washed with CH2Cl2. The CH2Cl2 solution was evaporated in vacuo. The residue, dissolved in 500 ml of ethylene chloride, was added to a mixture of 2.6-diacetamidopurine (7.03 g, 30 mmol) and molecular sieve (Linde 4A, 75 g) in 500 ml of ethylene chloride. This mixture was refluxed until all the chlorosugar was consumed (TLC) (8-11 days). The mixture was then stirred with Celite and filtered. The solid was washed with CHCl3, and the combined filtrates were evaporated to dryness in vacuo. The residue was dissolved in benzene and filtered (to remove unreacted 2,6-diacetamidopurine). The filtrate was again evaporated to dryness in vacuo and the residue dissolved in 100 ml of 1 N methanolic NaOMe. After a 3-hr reflux period, the solution was chilled, neutralized with acetic acid, and refrigerated overnight. The solid that precipitated was removed by filtration, washed with MeOH, and dried in vacuo; yield 5.6 g (34%); mp 159°-161°; TLC homogenous.

reactant | HCl | Cl | ClH
reactant | 2,3,5-tri-O-benzyl-1-O-p-nitrobenzoyl-β-D-arabinofuranose | 30 mmol, 17 g | C(C1=CC=CC=C1)O[C@@H]1[C@H](OC(C2=CC=C(C=C2)[N+](=O)[O-])=O)O[C@@H]([C@H]1OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C33H31NO8
reactant | 2.6-diacetamidopurine | 30 mmol, 7.03 g | C(C)(=O)NC1=NC(=C2NC=NC2=N1)NC(C)=O | C9H10N6O2
solvent | CH2Cl2 | 187 ml | C(Cl)Cl | CH2Cl2
solvent | ethylene chloride | 500 ml | C(CCl)Cl | C2H4Cl2
product | 2-Amino-9-(2,3,5-tri-O-benzyl-β-D-arabinofuranosyl)adenine | NC1=NC(=C2N=CN(C2=N1)[C@H]1[C@@H](OCC2=CC=CC=C2)[C@H](OCC2=CC=CC=C2)[C@H](O1)COCC1=CC=CC=C1)N | C31H32N6O4
